Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical Fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female hx of aortic stenosis,
HTN, CKD who presented to the hospital after mechanical fall. 
She
states she was turning around on her porch to go back up the
steps using her cane and the cane was caught on the steps and 
she
lost her balance and fell. There was +headstrike but no LOC. The
event was witness by her daughter. She was conversational and
alert during the entire event. She denied any dizziness prior 

 
Past Medical History:
Past Medical History: Aortic stenosis, HTN, HLD, CKD stage IV,
peripheral neuropathy, gout 

Past Surgical History: None
 
Social History:
___
Family History:
 Non-contributory 
 
Physical Exam:
Admission Physical Exam:
Vitals: T98.1 HR 81 BP 159/80 RR 18 Sat 95% Nasal Cannula 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.2, 174 / 82, 74, 18, 92 Ra 
Gen: A&O, NAD, sitting up in bed
CV: RRR, No M/G/R
PULM: Clear to auscultation 
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: mild non pitting edema in ___
 
Pertinent Results:
___ 06:00AM BLOOD WBC-10.4* RBC-3.57* Hgb-10.4* Hct-32.9* 
MCV-92 MCH-29.1 MCHC-31.6* RDW-15.1 RDWSD-50.3* Plt ___
___ 07:20AM BLOOD WBC-11.2* RBC-3.62* Hgb-10.7* Hct-34.1 
MCV-94 MCH-29.6 MCHC-31.4* RDW-15.0 RDWSD-52.2* Plt ___
___ 02:15AM BLOOD WBC-12.1* RBC-3.85* Hgb-11.0* Hct-35.3 
MCV-92 MCH-28.6 MCHC-31.2* RDW-14.6 RDWSD-48.6* Plt ___
___ 06:00AM BLOOD Glucose-108* UreaN-20 Creat-1.0 Na-141 
K-4.7 Cl-104 HCO3-24 AnGap-13
___ 07:20AM BLOOD Glucose-128* UreaN-22* Creat-1.0 Na-142 
K-4.6 Cl-106 HCO3-22 AnGap-14
___ 02:15AM BLOOD Glucose-138* UreaN-38* Creat-1.3* Na-143 
K-4.7 Cl-106 HCO3-24 AnGap-13

Imaging:

OSH CT scan consistent with displaced sternal fracture and 
multiple rib fractures
 
Brief Hospital Course:
___ presents with mechanical fall with multiple left rib 
fractures and displaced sternum fracture. Admitted for pain 
control, pulmonary toilet, and ___ evaluation. The patient was 
hemodynamically stable and in no respiratory distress. 

Pain was well controlled. Patient tolerated to a regular diet 
with good tolerability. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. Physical therapy cleared the patient for 
discharge home.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient and her daughter received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Medications: 
- Simvastatin 10mg'
- ASA 81'
- MVI
- Vit D3 ___ Unit caps, 2 caps daily 
- Lasix 20mg every other day 
- Vesicare 10mg Daily 
- Prolia 60mg/ml injection every 6 months
- Neurontin 100mg BID
- Allopurinol ___ Daily 
- Metoprolol Tartrate 25mg BID 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 325 mg 2 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  Senna 8.6 mg PO BID  
4.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
5.  Allopurinol ___ mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Gabapentin 100 mg PO BID  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mechanical fall
displaced sternal fracture and multiple left sided rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a fall. You are doing well and 
your pain is under control. You are medically clear for 
discharge home.

* Your injury caused multiple left sided rib fractures and a 
sternal fracture which can cause severe pain and subsequently 
cause you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___